Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Worsening Rt. foot weakness and upper and lower extremity distal 
parastehsias
 
Major Surgical or Invasive Procedure:
Administration of Plasmapheresis
 
History of Present Illness:
Ms. ___ is a ___ year old right handed female with ongoing 
history of idiopathic polyneuropathy since ___ s/p multiple 
plasmapheresis cycles here for worsening Rt. foot weakness with 
gradual and progressive numbness in her hands and feet, in a 
glove and sock distribution. The right foot weakness started ___ 
months ago when she noticed difficulty getting out of her 
wheelchair to get to the bathroom. This weakness was not 
accompanied by pain or numbness initially. Numbness later 
developed in her hands and feet. She has no tingling sensation 
with this numbness and no pain but she finds it difficult to 
grip objects. She now states she has mild trouble swallowing her 
own saliva but no difficulty breathing. 
.
Her neurological issues first started in ___ when she noticed 
leg weakness. This weakness developed gradually over ___ year and 
brought her to ___ where she was admitted and worked up for 3 
months because she got to the point where she was unable to 
ambulate. At this time she had no numbness or pain. From this 
point on she was wheelchair bound and was initially treated wiht 
Gabapentin. She later developed pain in her knees that led to 
bilateral knee replacement, left in ___ and rightin ___. In 
addition to leg wekaness she also developed proximal muscle 
weakness, finding it difficult to get out of chair, that 
progressed to difficulty breathing/swallowing by ___. At this 
point she was treated with IVIG without success and was then 
treated with plasmapheresis, ___ was effective. She comments 
on a history of  ___ treatments of plasmapheresis, without 
completion of the 5 cycles yet. Treatment was stopped early for 
heart spasms and suspected heart attack on two of her 
treatments.
.
She also has ongoing incontinence that has had unclear workup. 
This has been ongoing for ___ years and she recently developed 
bowel incontinence six times over the past 6 months. Of note is 
thats she is on heavy bowel regimen at the ___ for an 
"illeus" that has been ongoing ofr about ___ years.
.
On review of records she has had extensive workup for this 
neurosensory deficit. It progressed to causing hypophonia, 
dysarthria and trouble breathing before initiation of 
plasmapheresis treatment. She has also had abdominal pain and 
trouble with constipation.

 
Past Medical History:
1)Severe idiopathic axonal sensorimotor polyneuropathy: improved 
after plasmapheresis; coccygeal pain and constipation. Seen in 
GI clinic by Dr ___ thinks the constipation is
likely to be a combination of colonic inertia, neuromuscular
disease and immobility. Recent colonoscopy ___ - polypectomy 
(insufficient tissue on path). Diverticulosis on old CT abdomen. 

2)HTN 
3)Depression 
4)GERD 
5)history of vitamin B12 deficiency 
6)diverticulosis 
7)s/p hysterectomy for leiomyomata, C section
8)s/p knee replacement 
9)  Morbid obesity
10) breast lumpectomy left. 

 
Social History:
___
Family History:
No history of neurologic disease. A number of family members 
with lung and breast cancer, diabetes mellitus. The patient's 
mother was diagnosed with colon
cancer when she was ___ years old.  No other family members with
colon cancer, rectal cancer, or other ___ related cancers.

 
Physical Exam:
ON ADMISSION:
Physical Exam:
VS: T. 98.6 BP 118/76 HR 86 Resp 20 99RA
General: very pleasant morbidly obese lady
HEENT: NC AT, hearing intact to finger rub (slight reduction 
left side), fundus difficult to visualize due to bilateral 
cataracts, oropahrynx clear, upper and lower dentures, no 
JVD/LAD/thyromegaly
CV: RRR, normal S1 a nd S2, no mrg
Resp: CTAB, no spinal tenderness
Abd:  soft, NT, ND, present BS no abdominal bruits, no HSM
Extremeties: warm and moist, 2+ DP and radial pulses, trace 
edema abive ankles bilaterally
Skin: MMM, no rash, petichiae or echymosis
.
Neuro: 
Mental Status:
Alert and attentive doing months of the year backwards without 
problem. Recalled ___ objects on recall and her speech had 
normal cadence and rhythm. Responded to questions appropriately, 
following complex commands and giving a clear history of 
illness. 
.
Cranial nerves:
I-not assessed
II-visual fields intact to confrontation, PERRL (___)
III, IV, VI- EOMI
V-temporal and masseter strength intact, sensation to light 
touch intact
VII-facial muscles intact
VIII-hearing mildly reduced to left side
IX, X- symmetric palate elevation 
XI-sternomastoid and trapezius ___
XII-tongue midline 
.
Motor:
Bulk-atrophy ___ dorsal web space Lt hand>Rt hand otherwise 
normal bulk. No dystonia, clonus, pronator drift, or asterixis. 
No tremor in hands. ?restlessness of both feet. 
Strength-
    Del ___  ___  WE  FF FE  IP  Q  Ham DF  PF
Rt.  4+  5    4+  ___   ___-  5   5 
Lt.  4+  5    4+  ___   ___-  5   5
.
Sensory: 
Intact to light touch
Diffuse impairment to propioception with inability to sit still 
with eyes closed, chorea like motion of fingers in ormberg 
position with eyes closed, and inability to sense joint position 
in finger, wrist, elbow bilaterally and toe and ankle 
bilaterally. 
Vibratory sense decreased to above knee bilaterally and to wrist 
bilaterally.
Impaired to sharp PP in feet bilaterally with hyperesthesia 
Lt.>Rt.
.
DTR: 
    ___  ___  ___  Pat  Ach  Babinski
Rt. 0    0    0     0     0     -
Lt. 0    0    0     0     0     -
.
Coordination: Intact to finger to nose
.
Gait: not assessed

 
Pertinent Results:
Hgb A1C 6.4
IF Ab negative
Vit B12 328
Methyl Malonic Acid pending

Post-void bladder scan 8cc

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of severe 
idiopathic sensorimotor axonal polyneuropathy who comes in with 
worsening sympotms of parasthesias in upper and lower 
extremities bilaterally and worsening Rt. foot weakness. She has 
responded well to plasmapheresis in the past but has never 
completed the full 5 cycle series. She was admitted for elective 
plasmapheresis and close montioring as she has had concerning 
symptoms related to the treatment in the past. During her first 
pheresis she experienced abdominal pain, nausea, vomit x1, and 
lost control of her bowels x1. She also had low blood pressure, 
SBP of 100, during the high flow pheresis (70). She felt better 
on slow flow and had no sympotms after pheresis. The night 
before her second cycle of pheresis she was nauseous and vomited 
multiple times with abdominal pain. EKG was unchanged from prior 
ones. She tolerated her second pheresis well with minimal 
abdominal pain and felt relief from her N/V afterwards. The 
remaining cycles of pheresis went well.  Her neurologic exam 
showed improved strength and improved sensation.  She worked 
closely with physical therapy to get out of bed to chair.

During her hospitalization it was noted that she had elevated 
glucose levels.  We obtained a consult from the ___ Diabet___ 
___.  After further review of her labwork, it was concluded 
that she is indeed diabetic.  She received a nutrition consult 
for diabetic diet teaching.  Also, she was started on Metformin 
500 mg daily with dinner.  It was also noted that her she has 
low lipid levels so her simvastatin dose was decreased to 10 mg 
daily.  

On the ___, she was started on ciprofloxacin for a urine 
culture postive for gram negative rods >100,000.  Once 
sensitivities came back sensitive the same day, she was switched 
to nitrofurantoin with a plan for a 7 day course.  

 
Medications on Admission:
1. Lidocaine 12 hours on 12 off- lower back
2. Acetminophen 100mg PO daily PRN
3. Lorazepam 0.5mg Q6 PRN
4. Amlodipine 5mg daily
5. Metoclopramide 10mg TID
6. ASA 81mg daily
7. Bisacodyl 5mg daily PRN
8. nitroglycerin PRN chest pain
9. Bupropion 100mg BID
10. Omeprazole 20mg BID
11. Docusate Sodium 100mg BId
12. Furosemide 20mg daily
13. Polyethylene glycol 17g BID
14. Glycerin supp PRN
15. Sertraline 100mg daily
16. Isosorbide mononitrate ER 60mg daily
17. Simvastatin 20mg daily
18. Lactulose 15ml TID
19. Multivit.
20. Fiber

 
Discharge Medications:
1. Amlodipine 2.5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Bupropion HCl 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
3. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO TID (3 
times a day).  
6. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): on at 8 
am, off at 8 pm.  
7. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
8. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
10. Sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
12. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. Glycerin (Adult)     Suppository Sig: One (1) Suppository 
Rectal PRN (as needed) as needed for constipation.  
15. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. Polyethylene Glycol 3350 17 gram/dose Powder Sig: Seventeen 
(17) g PO BID (2 times a day).  
17. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
18. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.  
19. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
20. Nitrofurantoin (Macrocryst25%) 100 mg Capsule Sig: One (1) 
Capsule PO BID (2 times a day) for 7 days.  
21. Metformin 500 mg Tablet Sig: One (1) Tablet PO once a day: 
at dinner.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary
1. Severe idiopathic axonal sensorimotor polyneuropathy

 
Discharge Condition:
Stable.  Neurological examination is notable for bilateral 
psedoathetosis and decrements in proprioception (able to 
perceive at MCP and ankle - this is improved from admission).

 
Discharge Instructions:
You were seen at ___ because you wanted to undergo plasma 
exchange treatment for your nerve problems. You have had this 
treatment before, and it has worked in the past. Your treatment 
went well with the plasma exchange, although early on you did 
get abdominal pain during the exchange.
.
You also had your urinary incontinence problem looked at but 
will need further studies done as an outpatient to have this 
looked at.
Your labwork also showed that your sugars were mildly elevated 
on multiple blood draws, showing that you may be developing 
diabetes. You should discuss these findings with your PCP.
.
Please note that the antibiotic nitrofurantoin was started to 
treat a urinary tract infection.  The medication metformin was 
also started for diabetes.
.
Please seek medical attention if you develop increasing weakness 
- especially on one side of your body, shaking of the limbs, 
changes in vision, chest discomfort, shortness of breath, 
lightheadedness, or any other symptom you find concerning.
 
Followup Instructions:
___